US07994163B2
6-Acetyl-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 6-acetyl-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.3 g, 4.24 mmol) in methanol (42 mL). Add K2CO3 (1.2 g, 8.49 mmol) and stir at 80° C. for 2 h. Cool the reaction mixture to room temperature, add di-tert-butyl-dicarbonate (1.9 g, 8.48 mmol) in DCM (5 mL) and stir at room temperature for 15 h. Remove the solvent in vacuo, dissolve the residue in diethyl ether (40 mL) and wash with water (10 mL). Dry the organic layer over anhydrous Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (1:0 to 3:2 gradient) to give the desired intermediate as a clear oil (1.33 g, 97%). MS (ES+) m/z: 324 (M+H)+.

reactant | 6-acetyl-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 4.24 mmol, 1.3 g | C(C)(=O)C1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C14H13ClF3NO2
reactant | K2CO3 | 8.49 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl-dicarbonate | 8.48 mmol, 1.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 42 mL | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-Acetyl-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.33 g, 97% | C(C)(=O)C1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C17H22ClNO3
